US05149705
Ethyl 6-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)ethynyl]nicotinoate
The reaction vessels used in this procedure were flame dried under vacuum and all operations were carried out in an oxygen-free argon or nitrogen atmosphere. To a solution of 417.6 mg (1.9667 mmol) of 1,1,4,4-tetramethyl-1,2,3,4-tetrahydro-6-ethynylnapthalene in 3 ml of dry tetrahydrofuron (THF) at 0° C. was added dropwise 1.3 ml of 1.6M (2.32 mmol) n-butyllithium in hexane. This mixture was stirred at 0° C. for 10 minutes and at room temperature for 15 minutes, cooled again to 0° C. and then treated by double-ended needle with a solution of 290 mg (2.1279 mmol) of fused zinc chloride in 4 ml dry THF. The mixture was stirred at 0° C. for 45 minutes and at room temperature for 15 minutes. A solution of 361.1 mg (1.9455 mmol) of ethyl 6-chloronicotinoate in 4 ml dry THF was transferred by double ended needle into a suspension of 420 mg (0.3635 mmol) of tetrakistriphenylphosphine palladium in 4 ml dry THF, the resultant mixture stirred at room temperature for 15 minutes and then treated by double ended needle with the solution of alkynyl zinc prepared above. The reaction mixture was stirred at room temperature for 70 hours and then quenched with ice and 30 ml of 3N HCl. The resultant mixture was extracted with 3×50 ml of ether, the ether extracts combined and washed successively with saturated NaHCO3 and saturated NaCl solutions and then dried (MgSO4). The ether solution was filtered and concentrated in-vacuo. The resultant crude product was purified by flash chromatography (silica, 10% ethyl acetate in hexanes) followed by recrystallization from a mixture of ethylacetate in hexane to give the title compound as a pale cream solid.

reactant | 1,1,4,4-tetramethyl-1,2,3,4-tetrahydro-6-ethynylnapthalene | 1.9667 mmol, 417.6 mg | CC1(CCC(C2=CC(=CC=C12)C#C)(C)C)C | C16H20
reactant | n-butyllithium | 2.32 mmol, 1.6M | C(CCC)[Li]
reactant | ethyl 6-chloronicotinoate | 1.9455 mmol, 361.1 mg | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | Ethyl 6-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)ethynyl]nicotinoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=NC=C(C(=O)OCC)C=C1)C | C24H27NO2
